US06967196B1
To a solution of 4-chloro-N-[5-chloro-2-chlorophenyl]benzenesulfonamide (1.00 g, 2.97 mmol), triphenylphosphine (1.64 g, 6.24 mmol) and 5S-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pentanol (1.30 g, 5.94 mmol) in THF (12 mL) was added diisopropylazodicarboxylate (1.23 mL, 6.24 mol) dropwise at 0° C. under nitrogen. The resulting mixture was allowed to warm to 22 DC with stirring. Stirring was continued for a period of 12 h followed by the addition of 25 mL of H2O. The mixture was extracted with ether (3×25 mL). The combined organic extracts were washed with 1M NaHCO3 and sat. brine. The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (1:5 ethyl acetate:hexanes) of the concentrate afforded 830 mg of 4-chloro-N-[5-chloro-2-chlorophenyl]-N-[(R)-1-methyl-4-[(1,1-dimethylethyl)-dimethylsilyl]oxy)butyl]benzenesulfonamide as a yellow oil in 52% yield.

reactant | 4-chloro-N-[5-chloro-2-chlorophenyl]benzenesulfonamide | 2.97 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)Cl | C12H8Cl3NO2S
reactant | triphenylphosphine | 6.24 mmol, 1.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 6.24 mol, 1.23 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | H2O | 25 mL | O | H2O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | benzenesulfonamide | 52% yield | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
